US08470841B2
39c 6-(4-Benzyloxyphenoxy)pyridin-3-ol
Sodium nitrite (1.84 g, 26.7 mmol) was dissolved in 32 ml of concentrated sulfuric acid at 0° C. Then, 6-(4-benzyloxyphenoxy)pyridin-3-ylamine (7.1 g, 24.29 mmol) in 75 ml of acetic acid were slowly added dropwise. After 1 h the ice bath was removed and stirring was continued for an hour. The reaction mixture was added dropwise to 250 ml of boiling water, and the mixture was stirred for 1 hour and after cooling extracted with ethyl acetate. The precipitated solid was filtered off and the filtrate was concentrated and purified by preparative HPLC (PR18, acetonitrile/water 0.1% TFA). Yield: 269 mg (4%), M+H+: 294.10.

reactant | Sodium nitrite | 26.7 mmol, 1.84 g | N(=O)[O-].[Na+]
reactant | 6-(4-benzyloxyphenoxy)pyridin-3-ylamine | 24.29 mmol, 7.1 g | C(C1=CC=CC=C1)OC1=CC=C(OC2=CC=C(C=N2)N)C=C1 | C18H16N2O2
solvent | sulfuric acid | 32 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 6-(4-Benzyloxyphenoxy)pyridin-3-ol | C(C1=CC=CC=C1)OC1=CC=C(OC2=CC=C(C=N2)O)C=C1 | C18H15NO3
